US05104989
Potassium hydroxide (3.36 g, 60 mmoles) was added to a stirred solution of 5,6-dihydro-2H-pyran-2-one (4.9 g, 50 mmoles) in water (45 ml) at 5° C. The solution was allowed to warm to 20° C. and stirred for 21/2 hours then evaporated to residue in a vacuum. The residue was flushed with isopropanol (2×50 ml) and dried in a vacuum at 50° C. over P2O5. This solid was slurried in dry dimethylformamide (30 ml) and methyl iodide (34.2 g, 240 mmol) added. The slurry was stirred for 18 hours at 20° C. then quenched by the addition of ice (20 g). The mixture was extracted with diethyl ether (4×50 ml) and the extracts washed with aqueous sodium chloride (50 ml) and dried (Na2SO4). Solvent removal in a vacuum afforded methyl (Z)-5-hydroxy-2-pentenoate as a colourless oil (4.1 g, 63% yield). The oil was dissolved in dichloromethane (40 ml) with N,N-dimethylaminopyridine (0.1 g) and treated with acetyl chloride (2.75 g, 35 mmoles) in dichloromethane (10 ml) added over 5 minutes at 5° C. The resulting slurry was allowed to warm to room temperature then quenched by the addition of water (40 ml) and the layers separated. The aqueous layer was extracted with dichloromethane (40 ml) and the organic extracts combined, washed with hydrochloric acid (0.5M, 2×50 ml) then water (2×50 ml), and dried (Na2SO4). Solvent removal in a vacuum followed by Kugelrohr distillation afforded methyl (Z)-5-acetoxy-2-pentenoate as a colourless oil (4.1 g, 76%) b.p. 75° C./0.1 mbar (Found: C, 55.60, H, 7.00 C8H12O4 requires C, 55.80; H, 7.00%).

reactant | Potassium hydroxide | 60 mmoles, 3.36 g | [OH-].[K+]
reactant | 5,6-dihydro-2H-pyran-2-one | 50 mmoles, 4.9 g | O1C(C=CCC1)=O | C5H6O2
reactant | methyl iodide | 240 mmol, 34.2 g | CI | CH3I
solvent | water | 45 ml | O | H2O
product | methyl (Z)-5-hydroxy-2-pentenoate | 4.1 g, 63% yield | OCC\C=C/C(=O)OC | C6H10O3
